US07129270B2
4-(5-Fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid ethyl ester 4-(3-Fluoro-4-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid ethyl ester
From the mother liquor, after chromatography on silica gel with hexane-ethyl acetate (8:1), another 500 mg of 4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid-ethyl ester accumulates as a first fraction, and 800 mg of 4-(3-fluoro-4-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid-ethyl ester as an oil accumulates as a second fraction.

reactant | 4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid-ethyl ester | 500 mg | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)F)[N+](=O)[O-])(C(F)(F)F)O)=O | C15H17F4NO5
reactant | 4-(3-fluoro-4-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid-ethyl ester | 800 mg | C(C)OC(C(CC(C)(C)C1=CC(=C(C=C1)[N+](=O)[O-])F)(C(F)(F)F)O)=O | C15H17F4NO5
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-(5-Fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid ethyl ester 4-(3-Fluoro-4-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid ethyl ester | C(C)OC(C(CC(C)(C)C1=CC(=C(C=C1)[N+](=O)[O-])F)(C(F)(F)F)O)=O.C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)F)[N+](=O)[O-])(C(F)(F)F)O)=O | 2C15H17F4NO5
